US04496560
A mixture of 2-benzhydryloxycarbonyl-7-(3,4-dichlorophenylthio)-acetamido-3-[2-(2-dimethylamino-ethylamino)-thiazol-5-yl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2ene (1.5 g), anisole (5 cc) and formic acid (25 cc) is stirred for 30 minutes at 50° C. The mixture is concentrated to dryness under reduced pressure (0.1 mm Hg; 0.013 kPa) and the residue is then taken up in ethanol (3×50 cc) and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. The solid obtained is washed with acetone (50 cc) and then with ethyl ether (50 cc). It is dried under reduced pressure (0.1 mm Hg; 0.013 kPa), giving 2-carboxy-7-(3,4-dichloro-phenylthio)-acetamido-3-[2-(2-dimethylamino-ethylamino)-thiazol-5-yl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (1 g) in the form of a yellow powder.

reactant | 2-benzhydryloxycarbonyl-7-(3,4-dichlorophenylthio)-acetamido-3-[2-(2-dimethylamino-ethylamino)-thiazol-5-yl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2ene | 1.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CC(=O)NC=1N2C(C(C2SCC1C1=CN=C(S1)NCCN(C)C)SC1=CC(=C(C=C1)Cl)Cl)=O | C35H33Cl2N5O4S3
reactant | anisole | 5 cc | C1(=CC=CC=C1)OC | C7H8O
solvent | formic acid | 25 cc | C(=O)O | CH2O2
product | 2-carboxy-7-(3,4-dichloro-phenylthio)-acetamido-3-[2-(2-dimethylamino-ethylamino)-thiazol-5-yl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 1 g | C(=O)(O)CC(=O)NC=1N2C(C(C2SCC1C1=CN=C(S1)NCCN(C)C)SC1=CC(=C(C=C1)Cl)Cl)=O | C22H23Cl2N5O4S3
